US06432993B1
(34-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-methylthiophenoxy)phenyl}-N-methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(4-methylthiophenoxy)phenyl]-N-methylcarbamate (1.93 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (3.01 g), diethyl cyanophosphonate (1.75 g), triethylamine (1.08 g) and anhydrous tetrahydrofuran (80 ml) and the reaction mixture was purified to give the desired product (2.96 g).

reactant | t-butyl N-[2-amino-5-(4-methylthiophenoxy)phenyl]-N-methylcarbamate | 1.93 g | NC1=C(C=C(C=C1)SC1=CC=C(C=C1)C)N(C(OC(C)(C)C)=O)C | C19H24N2O2S
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 3.01 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 1.75 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.08 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-methylthiophenoxy)phenyl}-N-methylcarbamate | 2.96 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)SC2=CC=C(C=C2)C)N(C(OC(C)(C)C)=O)C)C=C1 | C31H33N3O6S2
